US04880804
To a solution of 2.2 g 1-(4-nitrobenzyl)-2-hydroxymethylbenzimidazole in 30 mL of chloroform was added 3.3 mL of thionyl chloride. The reaction mixture was stirred at room temperature for 18 hours and then concentrated in vacuo. The residue was taken up in water, neutralized with K2CO3 to a pH of 10 and extracted into methylene chloride. The organic layer was dried over Na2SO4 and concentrated to give 2 g of 1-(4-nitrobenzyl)-2-chloromethylbenzimidazole as a yellowish solid.

reactant | 1-(4-nitrobenzyl)-2-hydroxymethylbenzimidazole | 2.2 g | [N+](=O)([O-])C1=CC=C(CN2C(=NC3=C2C=CC=C3)CO)C=C1 | C15H13N3O3
reactant | thionyl chloride | 3.3 mL | S(=O)(Cl)Cl | Cl2OS
solvent | chloroform | 30 mL | C(Cl)(Cl)Cl | CHCl3
product | 1-(4-nitrobenzyl)-2-chloromethylbenzimidazole | 2 g | [N+](=O)([O-])C1=CC=C(CN2C(=NC3=C2C=CC=C3)CCl)C=C1 | C15H12ClN3O2
